US09326973B2
To a solution of diisopropylamine (1.675 mL, 11.75 mmol) in THF (10 mL) was added n-BuLi/hexane (4.70 mL, 11.75 mmol) dropwise at −78° C. The reaction mixture was stirred in the bath for 5 min and then stirred in ice bath for 30 min. The reaction mixture was added dropwise a solution of methyl isobutyrate (1 g, 9.79 mmol) in THF (5 mL) at −78° C. The reaction mixture was stirred at −78° C. for 2 hr. The solution of picolinaldehyde (1.258 g, 11.75 mmol) in THF (2 mL) was added dropwise at −78° C. Then the solution was allowed to warm to room temperature and stirred for 1 hr. The reaction was quenched with NH4Cl, then diluted with EtOAc. Then organic phase was washed with sat. NaHCO3, water, sat. NaCl, dried over anhydrous Na2SO4, and concentrated to yield an oil. The crude was purified by silica chromatography with 0-100% EtOAc/Hex to yield methyl 3-hydroxy-2,2-dimethyl-3-(pyridin-2-yl)propanoate (1.0 g) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) ppm 8.61-8.44 (m, 1H), 7.66 (td, J=7.7, 1.8 Hz, 1H), 7.26-7.12 (m, 2H), 4.96 (d, J=7.5 Hz, 1H), 4.67 (d, J=7.5 Hz, 1H), 3.74 (s, 3H), 1.18 (s, 3H), 1.10 (s, 3H).

reactant | diisopropylamine | 11.75 mmol, 1.675 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi hexane | 11.75 mmol, 4.70 mL | [Li]CCCC.CCCCCC
reactant | methyl isobutyrate | 9.79 mmol, 1 g | C(C(C)C)(=O)OC | C5H10O2
reactant | picolinaldehyde | 11.75 mmol, 1.258 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | methyl 3-hydroxy-2,2-dimethyl-3-(pyridin-2-yl)propanoate | 1.0 g | OC(C(C(=O)OC)(C)C)C1=NC=CC=C1 | C11H15NO3
